US08119624B2
3,5-Bis-methoxymethoxy-benzoic acid methyl ester
To a suspension of methyl 3,5-dihydroxybenzoate (250 g, 1.5 mol) and K2CO3 (500 g, 3.6 mol) in MeCN (2 L) was added drop wise MOMCl (270 g, 3.35 mol) at 0° C. The mixture was stirred at room temperature for 1.5 hr. TLC (EtOAc/petroleum ether=1/2) showed that no starting material was present. The reaction mixture was filtered and the filtrate was concentrated to give a brown oil. The oil was suspended in CH2Cl2. The resulting solid was filtered off. The filtrate was concentrated again to give the title compound (200 g, 57%) as a brown oil. 1H NMR (400 MHz, CDCl3): δ 7.36 (d, 2H), 6.91 (t, 1H), 5.19 (s, 4H), 3.90 (s, 3H), 3.47 (s, 6H).

reactant | methyl 3,5-dihydroxybenzoate | 1.5 mol, 250 g | OC=1C=C(C(=O)OC)C=C(C1)O | C8H8O4
reactant | K2CO3 | 3.6 mol, 500 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MOMCl | 3.35 mol, 270 g | C(OC)Cl | C2H5ClO
reactant | MeCN | 2 L | CC#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3,5-Bis-methoxymethoxy-benzoic acid methyl ester | 200 g, 57% | COC(C1=CC(=CC(=C1)OCOC)OCOC)=O | C12H16O6
